US06995263B2
A solution of 3.23 g (10.34 mmol) [4-(2-methoxy-ethyl)-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol and 0.788 ml (10.86 mmol) thionylchloride in 30 ml dichloromethane was stirred for 1 h at RT. The reaction mixture was taken up in ether and washed with sodium bicarbonate solution and water. The ether phase was concentrated under reduced pressure to give 3.42 g of pure 5-chloromethyl-4-(2-methoxy-ethyl)-2-(4-trifluoromethyl-phenyl)-pyrimidine.

reactant | [4-(2-methoxy-ethyl)-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-methanol | 10.34 mmol, 3.23 g | COCCC1=NC(=NC=C1CO)C1=CC=C(C=C1)C(F)(F)F | C15H15F3N2O2
reactant | thionylchloride | 10.86 mmol, 0.788 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 5-chloromethyl-4-(2-methoxy-ethyl)-2-(4-trifluoromethyl-phenyl)-pyrimidine | 3.42 g | ClCC=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)CCOC | C15H14ClF3N2O
